US08957074B2
Following general N—C coupling procedure 1, (S)-3-(6-Amino-pyridin-3-yl)-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester was combined with 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide which gave (S)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester as a white solid (0.075 g, 0.115 mmol) in 35% yield. MS m/z 619.5 (M+H)+.

reactant | (S)-3-(6-Amino-pyridin-3-yl)-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC[C@]2(CN(C(O2)=O)C=2C=NC(=CC2)N)CCC1 | C18H26N4O4
reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | (S)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester | 0.115 mmol, 0.075 g, 35% yield | C(C)(C)(C)OC(=O)N1CC[C@]2(CN(C(O2)=O)C=2C=NC(=CC2)NC=2N=CC3=C(N2)N(C(=C3)C(N(C)C)=O)C3CCCC3)CCC1 | C32H42N8O5
